US05827849
d) 4-Ethoxycarbonyl-3-hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine 2-oxide
Prepared from 1-benzyl-4-chloro-5-hydroxyiminomethyl-2,3,6,7-tetrahydro-1H-azepine by reaction with diethyl malonate in the presence of sodium hydride and catalytic amounts of copper(I) bromide at 100° C.

reactant | 1-benzyl-4-chloro-5-hydroxyiminomethyl-2,3,6,7-tetrahydro-1H-azepine | C(C1=CC=CC=C1)N1CCC(=C(CC1)C=NO)Cl | C14H17ClN2O
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | [H-].[Na+]
catalyst | copper(I) bromide | [Cu]Br
product | 4-Ethoxycarbonyl-3-hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine 2-oxide | C(C)OC(=O)C1=C([N+](=CC=2CCN(CCC21)CC2=CC=CC=C2)[O-])O | C19H22N2O4
